US05157027
(2) (E,E)-5,9,13-Trimethyl-4,8,12-tetradecatrienoic acid, 1,1-dimethylethyl ester
To a solution of 9.60 mL (68.5 mmol, 1.5 eq.) of diisopropylamine in 100 mL of tetrahydrofuran (THF) at -78° C. under argon was added 28.2 mL (45.0 mmol, 1.0 eq.) of 1.6 M n-butyllithium in hexanes over 20 minutes. After warming to 0° C. for 15 minutes, the solution was recooled to -78° C. and 6.05 mL (45 mmol, 1.0 eq.) of t-butyl acetate was added over 20 minutes. After an additional 15 minutes, 16.0 mL (92 mmol, 2.05 eq.) of hexamethylphosphoramide (HMPA) was added, followed by a solution of 12.53 g (45.0 mmol) of Part A(1) farnesyl bromide in 100 mL of THF over 20 minutes. The reaction was stirred at -78° C. for 2.5 hours, quenched with saturated NH4Cl and allowed to warm to room temperature. After diluting with 400 mL of ethyl acetate, the mixture was washed with four 100 mL portions of water, and 200 mL of brine, dried over MgSO4 and evaporated to provide 12.96 g of crude product as a yellow oil. Purification by flash chromatography on 1 kg of silica gel, eluted with 1:9 ethyl acetate:petroleum ether afforded 9.39 g (65%) of title compound as a pale yellow oil.

reactant | diisopropylamine | 68.5 mmol, 9.60 mL, 1.5 eq. | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 45.0 mmol, 1.6 M, 28.2 mL, 1.0 eq. | C(CCC)[Li]
reactant | t-butyl acetate | 45 mmol, 6.05 mL, 1.0 eq. | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | hexamethylphosphoramide | 92 mmol, 16.0 mL, 2.05 eq. | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | (E,E)-3,7,11-Trimethyl-2,6,10-dodecatrienyl bromide | C\C(=C/CBr)\CC\C=C(\CCC=C(C)C)/C | C15H25Br
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | THF | 100 mL | O1CCCC1 | C4H8O
product | (E,E)-5,9,13-Trimethyl-4,8,12-tetradecatrienoic acid, 1,1-dimethylethyl ester | 9.39 g, 65% | C\C(=C/CCC(=O)OC(C)(C)C)\CC\C=C(\CCC=C(C)C)/C | C21H36O2
